US06825191B2
Synthesis of ethyl 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo-[e][1,4]-diazepine-8-carboxylate 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylate
10 mg (0.019 mmol) of 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid was dissolved in 2 ml of dichloromethane. 0.022 ml (0.38 mmol) of ethanol, 4 mg (0.023 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.005 ml (0.038 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylic acid | 0.019 mmol, 10 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C(=O)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H24ClN3O5
reactant | ethanol | 0.38 mmol, 0.022 ml | C(C)O | C2H6O
reactant | triethylamine | 0.038 mmol, 0.005 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | ethyl 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo-[e][1,4]-diazepine-8-carboxylate 4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][1,4]-diazepine-8-carboxylate | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)C(=O)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1.ClC1=CC=C(C(=O)N3CC(N(C2=C(C3)C=CC(=C2)C(=O)OCC)CC2=CC=C(C=C2)C(=O)N2CC=CC2)=O)C=C1 | InChI=1S/C31H28ClN3O5.C29H24ClN3O5/c1-2-40-31(39)24-9-10-25-19-34(30(38)23-11-13-26(32)14-12-23)20-28(36)35(27(25)17-24)18-21-5-7-22(8-6-21)29(37)33-15-3-4-16-33;30-24-11-9-21(10-12-24)28(36)32-17-23-8-7-22(29(37)38)15-25(23)33(26(34)18-32)16-19-3-5-20(6-4-19)27(35)31-13-1-2-14-31/h3-14,17H,2,15-16,18-20H2,1H3;1-12,15H,13-14,16-18H2,(H,37,38)
